US03984465
Step F: 2,2-Dimethyl-5-hydroxy-6,7-dichloro-1-indanone
A stirred suspension of 2,2-dimethyl-5-methoxy-6,7-dichloro-1-indanone (12.2 g., 0.047 mole) and aluminum chloride (15.5 g., 0.116 mole) in heptane (500 ml.) is refluxed for one hour and cooled. The heptane is decanted from the reaction mixture and the solid residue is poured into ice (500 g.) and concentrated hydrochloric acid (50 ml.). The product which separates (7.6 g.) melts at 273° C. after crystallization from nitromethane.

reactant | 2,2-dimethyl-5-methoxy-6,7-dichloro-1-indanone | 0.047 mole, 12.2 g | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C12H12Cl2O2
reactant | aluminum chloride | 0.116 mole, 15.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | heptane | 500 ml | CCCCCCC | C7H16
product | 2,2-Dimethyl-5-hydroxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C11H10Cl2O2
